US06051712
In an analogous manner to that described in Example 22 (h), by reacting tert-butyl (3RS,4RS,5SR)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-hydroxy-5-hydroxymethyl-piperidine-1-carboxylate with triphenylchloromethane in pyridine there was obtained tert-butyl (3RS,4RS,5SR)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-hydroxy-5-trityloxymethyl-piperidine-1-carboxylate, [MS: 731 (M+NH4)+ ], as a colourless foam, alkylation of which with 2-bromomethyl-naphthalene analogously to Example 62 (h) gave tert-butyl (3RS,4RS,5SR)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-(naphthalen-2-ylmethoxy)-5-trityloxymethyl-piperidine-1-carboxylate, [MS: 871 (M+NH4)+ ], as a colourless foam. Subsequent selective cleavage of the trityl group by means of a mixture of trifluoroacetic acid and trifluoroacetic anhydride in methylene chloride analogously to Example 86 (u) yielded tert-butyl (3SR,4RS,5RS)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-hydroxymethyl-5-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate as a colourless solid; MS: 612 (M+H)+. Subsequent alkylation with methyl iodide analogously to Example 62 (h) gave tert-butyl (3SR,4RS,5RS)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-methoxymethyl-5-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate as a colourless solid; MS: 626 (M+H)+.

reactant | 2-bromomethyl-naphthalene | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | tert-butyl (3RS,4RS,5SR)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-(naphthalen-2-ylmethoxy)-5-trityloxymethyl-piperidine-1-carboxylate | C(C1=CC=CC=C1)OCCCOC1=CC=C(C=C1)C1C(CN(CC1COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C57H59NO6
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | tert-butyl (3SR,4RS,5RS)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-hydroxymethyl-5-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | C(C1=CC=CC=C1)OCCCOC1=CC=C(C=C1)C1C(CN(CC1OCC1=CC2=CC=CC=C2C=C1)C(=O)OC(C)(C)C)CO | C38H45NO6
